US05872118
A mixture of 2-(6-fluoro-3-oxo-1-indanyl)acetamide (0.750 g, 0.0036 mol), N-bromosuccinimide (0.750 g, 0.0042 mol, Aldrich), benzoyl peroxide (0.270 g, 0.0011 mol, Aldrich) in tetrachloromethane (37 ml) and benzene (37 ml) was stirred while heating with an oil bath at 120° C. for 20 min. This reaction was combined with a similarly run reaction (except 0.0024 mol scale). The solution was slurried with Silica Gel 60 and the volatiles were removed by spin evaporation in vacuo. This silica gel was then applied to a column of Silica Gel 60 (51×450 mm) wet with dichloromethane and the product was removed by elution with methanol:dichloromethane (3:97). After the volatiles were removed from the combined fractions containing product by spin evaporation in vacuo, the residue was recrystallized from methanol to give 0.81 g (58%) of (E)-2-(6-fluoro-3-oxo-1-indanylidene)acetamide: m.p., 235° C. (dec.):

reactant | 2-(6-fluoro-3-oxo-1-indanyl)acetamide | 0.0036 mol, 0.750 g | FC1=CC=C2C(CC(C2=C1)CC(=O)N)=O | C11H10FNO2
reactant | N-bromosuccinimide | 0.0042 mol, 0.750 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 0.0011 mol, 0.270 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | tetrachloromethane | 37 ml | ClC(Cl)(Cl)Cl | CCl4
solvent | benzene | 37 ml | C1=CC=CC=C1 | C6H6
product | (E)-2-(6-fluoro-3-oxo-1-indanylidene)acetamide | 0.81 g, 58% | FC1=CC=C2C(C/C(/C2=C1)=C\C(=O)N)=O | C11H8FNO2
